US05231101
Thionyl chloride (6 ml) was added to 1.03 g of 8-methylthio-6,11-dihydro-11-(1-methyl-4-piperidyl)-5H-benzo[5,6]cyclohepta[1,2-b]pyridin-11-ol and the resulting mixture was refluxed for 1 hour. After the completion of the reaction, the reaction mixture was added with a 10% sodium hydroxide solution and then extracted with chloroform. The resultant extract was dried over anhydrous Na2SO4 and then filtered. The filtrate was concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column and, from relevant fractions eluted with chloroform:methanol (20:1), 0.6 g of 8-methylthio-11-(1-methyl-4-piperidylidene)-6,11-dihydro-5H-benzo[5,6]cyclohepta[1,2-b]pyridine was obtained (yield: 61%).

reactant | Thionyl chloride | 6 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 8-methylthio-6,11-dihydro-11-(1-methyl-4-piperidyl)-5H-benzo[5,6]cyclohepta[1,2-b]pyridin-11-ol | 1.03 g | CSC=1C=CC2=C(CCC=3C(=NC=CC3)C2(O)C2CCN(CC2)C)C1 | C21H26N2OS
reactant | sodium hydroxide | [OH-].[Na+]
product | 8-methylthio-11-(1-methyl-4-piperidylidene)-6,11-dihydro-5H-benzo[5,6]cyclohepta[1,2-b]pyridine | 0.6 g, yield: 61% | CSC=1C=CC2=C(CCC=3C(=NC=CC3)C2=C2CCN(CC2)C)C1 | C21H24N2S
